US09353096B2
In a 25 mL round-bottom flask, (S)-1,1,1-trifluoro-3-[2-(3-methoxyphenyl)-1,1-dioxo-1λ6-thiomorpholin-4-yl]-propan-2-ol (234 mg, 662 μmol) was combined with acetonitrile (5.00 ml) to give a colorless solution. 1-chloro-4-isocyanatobenzene (102 mg, 662 μmol) was added. The reaction mixture was warmed at 85° C. for 3 h, resulting in only a trace of product. Heating was continued at reflux overnight. The reaction was 50% complete by LCMS. An additional 60 mg of 1-chloro-4-isocyanatobenzene was added and the reaction mixture was heated at reflux for overnight. Reaction was not complete. Another 50 mg starting 1-chloro-4-isocyanatobenzene was added and the reaction mixture was stirred at reflux for 10 h. Reaction was complete by LCMS. The reaction mixture was concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 30% EtOAc in hexanes gradient). The front end fractions of the product peak that was isolated from the column, that contained mostly one pure epimer (as determined by LCMS) were pooled to afford (4-chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-[(R)-2-(3-methoxyphenyl)-1,1-dioxo-1λ6-thiomorpholin-4-ylmethyl]-ethyl ester (46 mg) as a white foam. The absolute configuration was assigned based on analogy to Examples 1, 2, 11 and 12. (M+H)+=507 m/e.

reactant | (S)-1,1,1-trifluoro-3-[2-(3-methoxyphenyl)-1,1-dioxo-1λ6-thiomorpholin-4-yl]-propan-2-ol | 662 μmol, 234 mg | FC([C@H](CN1CC(S(CC1)(=O)=O)C1=CC(=CC=C1)OC)O)(F)F | C14H18F3NO4S
reactant | 1-chloro-4-isocyanatobenzene | 662 μmol, 102 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1-chloro-4-isocyanatobenzene | 60 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetonitrile | 5.00 ml | C(C)#N | C2H3N
product | (4-chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-[(R)-2-(3-methoxyphenyl)-1,1-dioxo-1λ6-thiomorpholin-4-ylmethyl]-ethyl ester | 46 mg | FC([C@H](CN1C[C@H](S(CC1)(=O)=O)C1=CC(=CC=C1)OC)OC(NC1=CC=C(C=C1)Cl)=O)(F)F | C21H22ClF3N2O5S
